US04824845
Example 6: Production of 2,4-bis-methoxyacetylamino-6-cyclopropylamino-1,3,5-triazine
7.2 g of methoxyacetyl chloride are slowly added dropwise to a suspension of 5.0 g of 2,4-diamino-6-cyclopropylamino-1,3,5-triazine in 50 ml of pyridine. The reaction mixture is subsequently stirred for 1 hour at 55° C. and then for 16 hours at room temperature. After filtration of the reaction mixture, washing of the filter residue with water and finally drying, the product is obtained as white crystalline powder having a melting point of 175°-180° C.

reactant | methoxyacetyl chloride | 7.2 g | COCC(=O)Cl | C3H5ClO2
reactant | 2,4-diamino-6-cyclopropylamino-1,3,5-triazine | 5.0 g | NC1=NC(=NC(=N1)N)NC1CC1 | C6H10N6
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2,4-bis-methoxyacetylamino-6-cyclopropylamino-1,3,5-triazine | COCC(=O)NC1=NC(=NC(=N1)NC(COC)=O)NC1CC1 | C12H18N6O4
